US05438064
N-(1-Butyl-4-piperidinyl)-8-methoxy-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxamide was prepared as a hygroscopic material (0.215 hydrate) by coupling 8-methoxy-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxylic acid and 4-amino-1-butylpiperidine as described for Example 17, Step 5. 4-Amino -1-butyl-piperidine can be prepared from 4-bromobutane and 1,4-dioxa-8-azaspiro[4.5]-decane as described in U.S. Pat. Nos. 3,875,165 and 4,816,464: mp 215°-220 ° C.; 1H NMR (Me2SO-d6, 400 MHz) δ 9.50 (s, 1 H), 8.77 (s, 1 H), 8.39 (d, J=7.5 Hz, 1 H), 8.01 (d, J=7.8 Hz, 1 H), 7.70 (d, J=8.6 Hz, 2 H), 7.57 (d, J= 8.4 Hz, 1 H), 7.41 (m, 1 H), 7.18-7.32 (m, 6 H), 6.88 (d, J=8.6 Hz, 2 H), 3.95 (s, 3 H), 3.72-3.76 (m, 1 H), 3.44-3.49 (m, 3 H), 2.68-2.80 (m, 4 H), 2.14-2.19 (m, 2 H), 1.95-2.01 (m, 2 H), 1.71-1.83 (m, 4 H), 1.53-1.60 (m, 4 H), 1,1-1.4 (m, 6 H), 0.8 (t, J=7.24 Hz, 3 H); Karl Fischer, 0.58% H2O.

reactant | 8-methoxy-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxylic acid | COC=1C=CC=C2C(=C(C=NC12)C(=O)O)NC1=CC=C(C=C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C30H30N4O4
reactant | 4-amino-1-butylpiperidine | NC1CCN(CC1)CCCC | C9H20N2
reactant | 4-bromobutane | BrCCCC | C4H9Br
reactant | 1,4-dioxa-8-azaspiro[4.5]-decane | O1CCOC12CCNCC2 | C7H13NO2
solvent | H2O | O | H2O
product | N-(1-Butyl-4-piperidinyl)-8-methoxy-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxamide | C(CCC)N1CCC(CC1)NC(=O)C=1C=NC2=C(C=CC=C2C1NC1=CC=C(C=C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1)OC | C39H48N6O3
